US04145432
A mixture of 2-nitrobenzaldehyde (3.023 g), benzyl acetoacetate (3.802 g) and piperidine (272.5 mg) in benzene (10 ml), was treated in a substantially similar manner that of Example 1-11) to give a brown oil (6.94 g) of benzyl 2-(2-nitrobenzylidene)acetoacetate, which was further treated with ethyl 3-amino-4,4-diethoxycrotonate (4.34 g) to give a dark brown oil (10.3 g). This oil was purified by column chromatography on silica-gel and the resultant oil (3.8 g) was crystallized to give crystals (1.65 g) of benzyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate, m.p. 103° to 103.5° C. (recrystallized from a mixture of diisopropyl ether and n-hexane).

reactant | 2-nitrobenzaldehyde | 3.023 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | benzyl acetoacetate | 3.802 g | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
reactant | piperidine | 272.5 mg | N1CCCCC1 | C5H11N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | benzyl 2-(2-nitrobenzylidene)acetoacetate | 6.94 g | [N+](=O)([O-])C1=C(C=C(C(=O)OCC2=CC=CC=C2)C(=O)C)C=CC=C1 | C18H15NO5
